US06180659B2
2-(3,5-Dimethoxyphenylthio)benzyl bromide (9.53 g) was dissolved in dimethyl sulfoxide (90 ml), sodium cyanide (2.77 g) was added thereto and the mixture was stirred at 80° C. for 1.5 hours. The reaction solution was diluted with ethyl acetate, washed with water and saturated sodium chloride solution and dried over anhydrous magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by a silica gel column chromatography (developing solvent; hexane:ethyl acetate=3:1) to give 2-(3,5-dimethoxyphenylthio)-benzyl cyanide (4.91 g, yield of 61%).

reactant | 2-(3,5-Dimethoxyphenylthio)benzyl bromide | 9.53 g | COC=1C=C(C=C(C1)OC)SC1=C(CBr)C=CC=C1 | C15H15BrO2S
reactant | sodium cyanide | 2.77 g | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | 90 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3,5-dimethoxyphenylthio)-benzyl cyanide | 4.91 g, yield of 61% | COC=1C=C(C=C(C1)OC)SC1=C(CC#N)C=CC=C1 | C16H15NO2S
